US04296114
1,2-Dihydro-1-(4-methoxyphenyl)-3-methylquinoxalin-2-one
Preparation as in Example 1 but using N-(4-methoxyphenyl)benzene-1,2-diamine and ethyl pyruvate gave the title compound mp 230°-232° C.

reactant | N-(4-methoxyphenyl)benzene-1,2-diamine | COC1=CC=C(C=C1)NC=1C(=CC=CC1)N | C13H14N2O
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 1,2-Dihydro-1-(4-methoxyphenyl)-3-methylquinoxalin-2-one | COC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)C)=O | C16H14N2O2
